US07943630B2
To an ice cooled solution of 3-(6-methoxy-naphthalen-2-yl)-3,9-diaza-spiro[5.5]-undecane (294 mg, 0.95 mmol) in dichloroethane (20 mL), formaldehyde (37% in water, 204 μL, 2.84 mmol) was added and stirred for 1 h at 0° C. Sodium triacetoxyborohydride (402 mg, 1.89 mmol) was added and stirred at room temperature over night. The reaction was quenched with aqueous sodium hydrogencarbonate (sat.) and evaporated. The remaining aqueous phase was extracted three times with dichloromethane and the combined organic phase was dried (sodium sulfate), filtered and evaporated to give 270 mg (80%) of 3-(6-methoxy-naphthalen-2-yl)-9-methyl-3,9-diaza-spiro[5.5]undecane. Mp. 122.2-124.9° C.

reactant | 3-(6-methoxy-naphthalen-2-yl)-3,9-diaza-spiro[5.5]-undecane | 0.95 mmol, 294 mg | COC=1C=C2C=CC(=CC2=CC1)N1CCC2(CC1)CCNCC2 | C20H26N2O
reactant | formaldehyde | 2.84 mmol, 204 μL | C=O | CH2O
reactant | Sodium triacetoxyborohydride | 1.89 mmol, 402 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 3-(6-methoxy-naphthalen-2-yl)-9-methyl-3,9-diaza-spiro[5.5]undecane | 270 mg, 80% | COC=1C=C2C=CC(=CC2=CC1)N1CCC2(CC1)CCN(CC2)C | C21H28N2O
